US05854234
5-amino-2-iminopiperidine hydrochloride
2,5-diaminopyridine dihydrochloride (1.2 g) and platinum oxide (500 mg) in ethanol (20 mL) and conc HCl (2 mL) were shaken on a Parr hydrogenation apparatus at 55 psi of hydrogen overnight. Product was obtained as a dark solid which was purified by C-18-reverse phase chromatography, eluting with H2O/CH3CN. Fractions containing the product were lyophilized, redissolved in 1N HCl and lyophilized to give the product as a yellow solid. The analysis of the product was found to be consistent with the proposed structure. MH+=114; 1H NMR (D2O): δ3.8-3.6 (m, 2H); 3.4-3.25 (m, 1H); 2.75-2.65 (m, 2H); 2.25-2.15 (m, 1H); 2.15-1.85 (m, 1H).

reactant | 2,5-diaminopyridine dihydrochloride | 1.2 g | Cl.Cl.NC1=NC=C(C=C1)N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | HCl | 2 mL | Cl | ClH
catalyst | platinum oxide | 500 mg | [Pt]=O
product | 5-amino-2-iminopiperidine hydrochloride | Cl.NC1CCC(NC1)=N | InChI=1S/C5H11N3.ClH/c6-4-1-2-5(7)8-3-4;/h4H,1-3,6H2,(H2,7,8);1H
